US09193710B2
Tert-butyl 4-Fluoro-2-nitrophenylcarbamate
The title compound was prepared from the commercially available 4-fluoro-2-nitroaniline [CAS-No. 364-78-3] (1.8 g, 12 mmol) and Boc2O (3.0 g, 14 mmol) according to the general procedure A. Obtained as a yellow solid (2.2 g, 73%), MS (EI) 257 [(M+1)+] and 200{[(M-C(CH3)3]+}.

reactant | 4-fluoro-2-nitroaniline | 12 mmol, 1.8 g | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | Boc2O | 14 mmol, 3.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | Tert-butyl 4-Fluoro-2-nitrophenylcarbamate | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C11H13FN2O4
